US08420655B2
To a solution of 5-fluoro-isoindole-1,3-dione (2.5 g, 15.14 mmol), DMAP (20 mg), in CH3CN (50 mL) is added di-tertbutyl dicarbonate (3.5 g, 16.04 mmol). The reaction mixture is stirred at room temperature for 3 hours. The reaction mixture is concentrated under reduced pressure to afford 5-fluoro-1,3-dioxo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (4.0 g, 99%) as a white solid.

reactant | 5-fluoro-isoindole-1,3-dione | 15.14 mmol, 2.5 g | FC=1C=C2C(NC(C2=CC1)=O)=O | C8H4FNO2
reactant | di-tertbutyl dicarbonate | 16.04 mmol, 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 5-fluoro-1,3-dioxo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 4.0 g, 99% | C(C)(C)(C)OC(=O)N1C(C2=CC=C(C=C2C1=O)F)=O | C13H12FNO4
